US06172085B2
To a solution of 2-bromo-3-(methoxymethoxy)-1,4,5-trimethylbenzene (3.0 g) in tetrahydrofuran (30 mL) was added 1.6M n-butyllithium/hexane (7.0 mL) dropwise at −78° C. and the mixture was stirred for 15 minutes. To this mixture were added (R)-methylglycidyl tosylate (2.8 g) and boron trifluoride-diethyl ether (1.5 mL), and the resulting mixture was further stirred for 15 minutes. The reaction mixture was warmed up to the room temperature, then diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over MgSO4, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:ethyl acetate=3.1) to provide (R)-2-hydroxy-3-[2-(methoxymethoxy)-3,4,6-trimethylphenyl]-2-methylpropyl 4-methylbenzene-sulfonate. This compound was dissolved in methanol (20 mL), followed by addition of potassium carbonate (1.6 g) under ice-cooling and the mixture was stirred for 30 minutes. To this reaction mixture were added ethyl acetate and water and the resulting two layers were separated. The aqueous layer was extracted with ethyl acetate and the extract was combined with the organic layer separated as above. The combined organic solution was washed with saturated aqueous sodium chloride solution, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to provide the title compound (0.73 g). the yield based on 2-bromo-3-(methoxymethoxy)-1,4,5-trimethylbenzene=25%.

reactant | 2-bromo-3-(methoxymethoxy)-1,4,5-trimethylbenzene | 3.0 g | BrC1=C(C=C(C(=C1OCOC)C)C)C | C11H15BrO2
reactant | n-butyllithium hexane | 1.6M, 7.0 mL | C(CCC)[Li].CCCCCC
reactant | (R)-methylglycidyl tosylate | 2.8 g | S(=O)(=O)(O[C@@H](C1CO1)C)C1=CC=C(C)C=C1 | C11H14O4S
reactant | boron trifluoride-diethyl ether | 1.5 mL | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (R)-2-hydroxy-3-[2-(methoxymethoxy)-3,4,6-trimethylphenyl]-2-methylpropyl 4-methylbenzene-sulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@](CC1=C(C(=C(C=C1C)C)C)OCOC)(C)O | C22H30O6S
